US05274186
Preparation of 2-(1-bromoethyl)-2-phenyl-5(S)-methyl-1,3-dioxolane-4-one
To a solution of 2-ethyl-2-phenyl-5(S)-methyl-1,3-dioxolane-4-one (1 mmol) and hydrogen bromide (0.1 mmol) in carbon tetrachloride (3 ml), bromine (1 mmol) was added and the temperature was kept at 15° C.

reactant | 2-ethyl-2-phenyl-5(S)-methyl-1,3-dioxolane-4-one | 1 mmol | C(C)C1(O[C@H](C(O1)=O)C)C1=CC=CC=C1 | C12H14O3
reactant | hydrogen bromide | 0.1 mmol | Br | BrH
reactant | bromine | 1 mmol | BrBr | Br2
solvent | carbon tetrachloride | 3 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(1-bromoethyl)-2-phenyl-5(S)-methyl-1,3-dioxolane-4-one | BrC(C)C1(O[C@H](C(O1)=O)C)C1=CC=CC=C1 | C12H13BrO3
